US08217031B2
Ethyl 3-[(furan-2-ylmethylene)amino]propanoate
2-Furaldehyde (10 g) was dissolved in 170 mL of methylene chloride, then 10 g of magnesium sulfate, 16 mL of triethylamine and 16 g of ethyl 3-aminopropionate hydrochloride were successively added thereto and the mixture was stirred overnight at room temperature. The reaction solution was poured over 100 mL of water, the mixture was subjected to extraction with methylene chloride and the solvent was evaporated therefrom in vacuo. The residue was dissolved in 100 mL of ethyl acetate, washed with water and a saturated solution of sodium chloride successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom in vacuo to give 19.2 g of the objective compound as yellow liquid.

reactant | 2-Furaldehyde | 10 g | O1C(=CC=C1)C=O | C5H4O2
reactant | magnesium sulfate | 10 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | triethylamine | 16 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-aminopropionate hydrochloride | 16 g | Cl.NCCC(=O)OCC
solvent | methylene chloride | 170 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | Ethyl 3-[(furan-2-ylmethylene)amino]propanoate | 19.2 g | O1C(=CC=C1)C=NCCC(=O)OCC | C10H13NO3
